US08247610B2
a) (R) 2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(3-methyl-butyl)-amino]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid methyl ester
Following the procedure of Example 39, step (a), reaction of 2-[5-(3,5-Bis-trifluoromethyl-benzylamino)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester, compound 46a with isovaleraldehyde gave the title compound; Calcd. MW 661.66. Found MH+ 662.4.

reactant | 2-[5-(3,5-Bis-trifluoromethyl-benzylamino)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C29H26F9NO2
reactant | isovaleraldehyde | C(CC(C)C)=O | C5H10O
product | 2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(3-methyl-butyl)-amino]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)N(CCC(C)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C34H36F9NO2
